US07547782B2
A) 4-(4-(2-Carbamoylpyridin-4-yloxy)-3-fluorophenylamino)-N-(2,4-difluorophenyl)-2-morpholinopyrimidine-5-carboxamide
To a suspension of 4-(4-(2-carbamoylpyridin-4-yloxy)-3-fluorophenylamino)-N-(2,4-difluorophenyl)-2-(methylsulfonyl)pyrimidine-5-carboxamide (75 mg, 0.13 mmol) in THF (4 mL) was added morpholine (100 mg, 1.1 mmol) and the reaction mixture was stirred 15 min. The solvent was removed in vacuo and the resulting solid was triturated in methanol/ether to give the desired product (55 mg, 75%) as a white solid. MS(ESI+) m/z 566 (M+H)+.

reactant | 4-(4-(2-carbamoylpyridin-4-yloxy)-3-fluorophenylamino)-N-(2,4-difluorophenyl)-2-(methylsulfonyl)pyrimidine-5-carboxamide | 0.13 mmol, 75 mg | C(N)(=O)C1=NC=CC(=C1)OC1=C(C=C(C=C1)NC1=NC(=NC=C1C(=O)NC1=C(C=C(C=C1)F)F)S(=O)(=O)C)F | C24H17F3N6O5S
reactant | morpholine | 1.1 mmol, 100 mg | N1CCOCC1 | C4H9NO
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 4-(4-(2-Carbamoylpyridin-4-yloxy)-3-fluorophenylamino)-N-(2,4-difluorophenyl)-2-morpholinopyrimidine-5-carboxamide | 55 mg, 75% | C(N)(=O)C1=NC=CC(=C1)OC1=C(C=C(C=C1)NC1=NC(=NC=C1C(=O)NC1=C(C=C(C=C1)F)F)N1CCOCC1)F | C27H22F3N7O4
